US07608639B2
3 3-(4-{3-[2-(3-Fluoro-phenoxy)-4-trifluoromethyl-phenoxy]-5-methyl-phenoxy}-2-methyl-phenyl)-propionic acid
The compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester is reacted with 3-fluorophenol as in Example 45 to afford 0.106 g (40%) of the title compound. 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z mass calculated for C30H25O5F4 541.1638, found 541.1625.

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | 3-(4-{3-[2-(3-Fluoro-phenoxy)-4-trifluoromethyl-phenoxy]-5-methyl-phenoxy}-2-methyl-phenyl)-propionic acid | 0.106 g, 40% | FC=1C=C(OC2=C(OC=3C=C(OC4=CC(=C(C=C4)CCC(=O)O)C)C=C(C3)C)C=CC(=C2)C(F)(F)F)C=CC1 | C30H24F4O5
